US08193207B2
4) 8-{2-Fluoro-5-[6-(pyrrolidin-1-ylcarbonyl)pyridin-3-yl]phenyl}-2-(cis-4-hydroxycyclohexyl)-2,8-di azaspiro[4.5]decan-1-one
Potassium phosphate (0.017 g, 0.078 mmol) in water (0.10 mL) was added to a mixture of 8-(5-bromo-2-fluorophenyl)-2-(cis-4-hydroxycyclohexyl)-2,8-diazaspiro[4.5]decan-1-one (15.0 mg, 0.0353 mmol), 2-(pyrrolidin-1-ylcarbonyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (16 mg, 0.053 mmol), and tetrakis(triphenylphosphine)palladium(0) (1.0 mg, 0.001 mmol) in 1,4-dioxane (0.30 mL). The resulting mixture was heated and stirred at 120° C. for 20 min. The mixture was filtered. The filtrate was diluted with methanol, and was purified by mass-guided reverse phase chromatography to afford the desired product. LCMS: (M+H)+=521.2.

reactant | Potassium phosphate | 0.078 mmol, 0.017 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 8-(5-bromo-2-fluorophenyl)-2-(cis-4-hydroxycyclohexyl)-2,8-diazaspiro[4.5]decan-1-one | 0.0353 mmol, 15.0 mg | BrC=1C=CC(=C(C1)N1CCC2(CCN(C2=O)[C@@H]2CC[C@@H](CC2)O)CC1)F | C20H26BrFN2O2
reactant | 2-(pyrrolidin-1-ylcarbonyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.053 mmol, 16 mg | N1(CCCC1)C(=O)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H23BN2O3
solvent | water | 0.10 mL | O | H2O
solvent | 1,4-dioxane | 0.30 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.001 mmol, 1.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-{2-Fluoro-5-[6-(pyrrolidin-1-ylcarbonyl)pyridin-3-yl]phenyl}-2-(cis-4-hydroxycyclohexyl)-2,8-di azaspiro[4.5]decan-1-one | FC1=C(C=C(C=C1)C=1C=NC(=CC1)C(=O)N1CCCC1)N1CCC2(CCN(C2=O)[C@@H]2CC[C@@H](CC2)O)CC1 | C30H37FN4O3
